US09353107B2
Step-ii: N-(2-(3-(dimethylamino)propoxy)-5-(3-(1-(3-fluorobenzyl)-3,5-dimethyl-1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridin-5-yl)phenyl)methanesulfonamide
Using similar reaction conditions as described in step-iii of example-1, N-(2-(3-(dimethylamino)propoxy)-5-(3-(1-(3-fluorobenzyl)-3,5-dimethyl-1H-pyrazol-4-yl)-1-tosyl-1H-pyrrolo[2,3-b]pyridin-5-yl)phenyl)methanesulfonamide (40 mg, 0.05 mmol) was hydrolyzed by lithium hydroxide (4 mg, 0.16 mmol), THF/methanol/water (1/1/0.5 ml) to afford 5 mg (16% yield) of the titled compound after purification by preparative TLC (SiO2)-eluted by 5% methanol in DCM. 1H NMR (CDCl3, 400 MHz): δ 8.88 (s, 1H), 8.54-8.53 (d, 1H), 7.84 (s, 1H), 7.808-7.803 (d, 1H), 7.33-7.23 (m, 3H), 7.05-7.03 (d, 1H), 6.99-6.90 (m, 2H), 6.87-6.852 (d, 1H), 5.31 (s, 2H), 4.16-4.13 (t, 2H), 2.96 (s, 3H), 2.52-2.49 (t, 2H), 2.31 (s, 6H), 2.25 (s, 3H), 2.17 (s, 3H), 2.00-1.97 (m, 2H). MS: m/z=591.4 (M+1), HPLC: 91.28% in method B.

reactant | N-(2-(3-(dimethylamino)propoxy)-5-(3-(1-(3-fluorobenzyl)-3,5-dimethyl-1H-pyrazol-4-yl)-1-tosyl-1H-pyrrolo[2,3-b]pyridin-5-yl)phenyl)methanesulfonamide | 0.05 mmol, 40 mg | CN(CCCOC1=C(C=C(C=C1)C=1C=C2C(=NC1)N(C=C2C=2C(=NN(C2C)CC2=CC(=CC=C2)F)C)S(=O)(=O)C2=CC=C(C)C=C2)NS(=O)(=O)C)C | C38H41FN6O5S2
reactant | lithium hydroxide | 0.16 mmol, 4 mg | [OH-].[Li+]
solvent | THF methanol water | 0.5 ml | C1CCOC1.CO.O
product | N-(2-(3-(dimethylamino)propoxy)-5-(3-(1-(3-fluorobenzyl)-3,5-dimethyl-1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridin-5-yl)phenyl)methanesulfonamide | 5 mg, 16% yield | CN(CCCOC1=C(C=C(C=C1)C=1C=C2C(=NC1)NC=C2C=2C(=NN(C2C)CC2=CC(=CC=C2)F)C)NS(=O)(=O)C)C | C31H35FN6O3S
